US08349851B2
To a solution of 2,2-difluoro-2-(4-fluorophenyl)acetic acid (1.33 g, 7.0 mmol) in DCM (50 mL) was added oxalyl chloride (0.640 mL, 7.5 mmol) and a catalytic amount of DMF. After stirring for 3 h, the mixture was concentrated under reduced pressure to afford 2,2-difluoro-2-(4-fluorophenyl)acetyl chloride. To a solution of 2-aminobenzamide (0.857 g, 6.3 mmol) and TEA (1.04 mL, 0.0075 mol) in DCE (100 mL) at rt was added 2,2-difluoro-2-(4-fluorophenyl)acetyl chloride from above in DCE (100 mL) and the reaction mixture was stirred overnight. After adding EtOAc (200 mL) the mixture was washed with 1 N HCl, sat. NaHCO3 and brine. The organic solution was concentrated to yield an off-white solid (0.989 mg, 51%). 1H NMR (300 MHz, DMSO-d6) δ 7.15 (t, 1H), 7.27 (m, 2H), 7.54 (m, 1H), 7.74 (m, 2H), 7.92 (m, 2H), 8.44 (d, 2H), 13.37 (s, 1H).

reactant | 2,2-difluoro-2-(4-fluorophenyl)acetic acid | 7.0 mmol, 1.33 g | FC(C(=O)O)(C1=CC=C(C=C1)F)F | C8H5F3O2
reactant | oxalyl chloride | 7.5 mmol, 0.640 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2,2-difluoro-2-(4-fluorophenyl)acetyl chloride | FC(C(=O)Cl)(C1=CC=C(C=C1)F)F | C8H4ClF3O
